2188-09-15 09:20:00 Physician Attending Progress Note
Chief Complaint: endocarditis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    31 yr old with AIDS, recurrent endocarditis
   24 Hour Events:
 EKG - At [**2188-9-14**] 09:35 AM
 EKG - At [**2188-9-14**] 03:00 PM
   PR continue to prolong, now up to 0.42 this AM, EP consulted for re
   evaluation for temp wire, and C- [**Doctor First Name 458**] also notified of imminent
   conduction failure
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2188-9-13**] 11:13 AM
   Gentamicin - [**2188-9-13**] 11:14 AM
   Metronidazole - [**2188-9-15**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2188-9-14**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2188-9-15**] 08:41 AM
   Other medications:
   Chlorhex
   Methadone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-9-15**] 09:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.7
C (98.1
   HR: 66 (66 - 74) bpm
   BP: 119/70(82) {94/56(66) - 131/74(87)} mmHg
   RR: 14 (9 - 20) insp/min
   SpO2: 100%
   Heart rhythm: JR (Junctional Rhythm)
   Wgt (current): 69.7 kg (admission): 69.7 kg
   Height: 66 Inch
             Total In:
                                                                  1,874 mL
                                                                    754 mL
   PO:
             TF:
   IVF:
                                                                  1,479 mL
                                                                    554 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,874 mL
                                                                    754 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 539 (476 - 562) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: 7.42/43/177/27/3
   Ve: 7.5 L/min
   PaO2 / FiO2: 443
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: left pupil smaller than right both reactive ,
   palpable mass in edge of left eyelid
   Cardiovascular: S3, S4, (Murmur: Systolic), IV/VI
   Respiratory / Chest: good air movement, scattered rales at bases
   Skin:  warm
   Neurologic: alert, follows all commands
   Labs / Radiology
   8.5 g/dL
   144 K/uL
   64 mg/dL
   6.9 mg/dL
   27 mEq/L
   4.3 mEq/L
   19 mg/dL
   106 mEq/L
   143 mEq/L
   26.2 %
   3.5 K/uL
        [image002.jpg]
                             [**2188-9-11**]  07:03 PM
                             [**2188-9-12**]  03:27 AM
                             [**2188-9-13**]  03:01 AM
                             [**2188-9-14**]  03:04 AM
                             [**2188-9-15**]  03:11 AM
                             [**2188-9-15**]  04:39 AM
   WBC
   4.1
   5.3
   3.2
   3.1
   3.5
   Hct
   30.3
   33.4
   28.3
   26.1
   26.2
   Plt
   100
   118
   129
   150
   144
   Cr
   9.4
   9.9
   5.1
   4.8
   6.9
   TropT
   0.15
   TCO2
   29
   Glucose
   85
   91
   90
   72
   64
   Other labs: PT / PTT / INR:15.7/28.0/1.4, CK / CKMB /
   Troponin-T:27//0.15, ALT / AST:[**7-10**], Alk Phos / T Bili:375/0.5,
   Differential-Neuts:68.9 %, Lymph:22.2 %, Mono:4.6 %, Eos:4.0 %, Lactic
   Acid:0.7 mmol/L, Albumin:3.0 g/dL, Ca++:8.0 mg/dL, Mg++:2.6 mg/dL,
   PO4:3.1 mg/dL
   Blood Cx [**9-12**] S viridians neg since then
   CXR: ETT 3 cm above
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 ANEMIA, CHRONIC
 THROMBOCYTOPENIA, CHRONIC
 HYPOTENSION (NOT SHOCK)
   31yo gentleman with h/o HIV not on HAART, ESRD on HD, and h/o coag neg
   Staph endocarditis s/p MVR/AVR [**1-25**] admitted with fevers and diarrhea,
   now w/ GPC POS BCx. Pt presents good clinical picture for bacterial
   endocarditis.
   Endocarditis: concern for valve abscess- needs repeat TEE today. Needs
   to go to OR if any valve abscess. Continue ABX, check Vanco level
   today. serial blood cx, EP aware and holding off on temp wire for now
   as EP feels surgery is definitive treatment but would consider iof
   acutely decompensates.
   ESRD: on HD T, TH, Sat
   Eyelid abscess: ? blepharitis, warm conpress, emycin ointment, Optho
   consult if worsens. Discuss with ID
   Remaining issues as per HOusestaff notes
   ICU Care
   Nutrition: holding for TEE, restart after
   Glycemic Control:
   Lines:
   20 Gauge - [**2188-9-11**] 04:30 PM
   18 Gauge - [**2188-9-15**] 04:15 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB chlorhex
   Comments:
   Communication:  with pt and sister
   [**Name (NI) 66**] status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section ------
   TEE unable to be completed due to pt gagging, inadequate sedation.
   Cards Attg would like anesthesia at bedside. Will attempt to rebook for
   this afternoon or in AM. EP did agree to place a temporary pacing wire
   in the AM.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1876**] [**Last Name (NamePattern1) 1877**], MD
   on:[**2188-9-15**] 15:18 ------

2188-09-15 15:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2188-9-14**] 09:35 AM
 EKG - At [**2188-9-14**] 03:00 PM
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2188-9-13**] 11:13 AM
   Gentamicin - [**2188-9-13**] 11:14 AM
   Metronidazole - [**2188-9-15**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2188-9-14**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2188-9-15**] 08:41 AM
   Midazolam (Versed) - [**2188-9-15**] 02:18 PM
   Fentanyl - [**2188-9-15**] 02:18 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-9-15**] 03:31 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.8
   HR: 64 (64 - 74) bpm
   BP: 122/75(86) {107/60(71) - 150/83(114)} mmHg
   RR: 14 (9 - 24) insp/min
   SpO2: 99%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 69.7 kg (admission): 69.7 kg
   Height: 66 Inch
             Total In:
                                                                  1,874 mL
                                                                    990 mL
   PO:
             TF:
   IVF:
                                                                  1,479 mL
                                                                    740 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,874 mL
                                                                    990 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 262 (262 - 539) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 27 cmH2O
   SpO2: 99%
   ABG: 7.42/43/177/27/3
   Ve: 8.5 L/min
   PaO2 / FiO2: 443
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   144 K/uL
   8.5 g/dL
   64 mg/dL
   6.9 mg/dL
   27 mEq/L
   4.3 mEq/L
   19 mg/dL
   106 mEq/L
   143 mEq/L
   26.2 %
   3.5 K/uL
        [image002.jpg]
                             [**2188-9-11**]  07:03 PM
                             [**2188-9-12**]  03:27 AM
                             [**2188-9-13**]  03:01 AM
                             [**2188-9-14**]  03:04 AM
                             [**2188-9-15**]  03:11 AM
                             [**2188-9-15**]  04:39 AM
   WBC
   4.1
   5.3
   3.2
   3.1
   3.5
   Hct
   30.3
   33.4
   28.3
   26.1
   26.2
   Plt
   100
   118
   129
   150
   144
   Cr
   9.4
   9.9
   5.1
   4.8
   6.9
   TropT
   0.15
   TCO2
   29
   Glucose
   85
   91
   90
   72
   64
   Other labs: PT / PTT / INR:15.7/28.0/1.4, CK / CKMB /
   Troponin-T:27//0.15, ALT / AST:[**7-10**], Alk Phos / T Bili:375/0.5,
   Differential-Neuts:68.9 %, Lymph:22.2 %, Mono:4.6 %, Eos:4.0 %, Lactic
   Acid:0.7 mmol/L, Albumin:3.0 g/dL, Ca++:8.0 mg/dL, Mg++:2.6 mg/dL,
   PO4:3.1 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 ANEMIA, CHRONIC
 THROMBOCYTOPENIA, CHRONIC
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2188-9-11**] 04:30 PM
   18 Gauge - [**2188-9-15**] 04:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2188-09-16 10:40:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2188-9-15**] 08:34 AM
   Failed TEE due to gagging
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2188-9-13**] 11:13 AM
   Gentamicin - [**2188-9-13**] 11:14 AM
   Metronidazole - [**2188-9-16**] 12:00 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2188-9-15**] 02:18 PM
   Fentanyl - [**2188-9-15**] 02:18 PM
   Heparin Sodium (Prophylaxis) - [**2188-9-15**] 05:19 PM
   Famotidine (Pepcid) - [**2188-9-15**] 08:00 PM
   Other medications:
   SC hep, methadone, nystatin, chlorhex, famotidine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-9-16**] 10:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.6
C (97.8
   HR: 62 (60 - 70) bpm
   BP: 120/68(81) {94/53(64) - 155/83(102)} mmHg
   RR: 14 (12 - 24) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 69.7 kg (admission): 69.7 kg
   Height: 66 Inch
             Total In:
                                                                  1,468 mL
                                                                    537 mL
   PO:
             TF:
   IVF:
                                                                  1,138 mL
                                                                    407 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,468 mL
                                                                    537 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 94 (89 - 531) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 250
   PIP: 30 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 7.8 L/min
   Physical Examination
   General Appearance: lying in be,d getting HD, sleepy but will arouse to
   voice
   Eyes / Conjunctiva: left pupil smaller than right both reactive ,
   palpable mass in edge of left eyelid
   Cardiovascular: S3, S4, (Murmur: Systolic), IV/VI
   Respiratory / Chest: good air movement, scattered rales at bases
   Skin:  warm
   Neurologic: follows all commands
   Labs / Radiology
   9.2 g/dL
   161 K/uL
   58 mg/dL
   8.7 mg/dL
   24 mEq/L
   4.7 mEq/L
   32 mg/dL
   106 mEq/L
   142 mEq/L
   27.0 %
   3.9 K/uL
        [image002.jpg]
                             [**2188-9-11**]  07:03 PM
                             [**2188-9-12**]  03:27 AM
                             [**2188-9-13**]  03:01 AM
                             [**2188-9-14**]  03:04 AM
                             [**2188-9-15**]  03:11 AM
                             [**2188-9-15**]  04:39 AM
                             [**2188-9-16**]  03:16 AM
   WBC
   4.1
   5.3
   3.2
   3.1
   3.5
   3.9
   Hct
   30.3
   33.4
   28.3
   26.1
   26.2
   27.0
   Plt
   100
   118
   129
   150
   144
   161
   Cr
   9.4
   9.9
   5.1
   4.8
   6.9
   8.7
   TropT
   0.15
   TCO2
   29
   Glucose
   85
   91
   90
   72
   64
   58
   Other labs: PT / PTT / INR:15.7/28.0/1.4, CK / CKMB /
   Troponin-T:27//0.15, ALT / AST:[**7-10**], Alk Phos / T Bili:375/0.5,
   Differential-Neuts:68.9 %, Lymph:22.2 %, Mono:4.6 %, Eos:4.0 %, Lactic
   Acid:0.7 mmol/L, Albumin:3.0 g/dL, Ca++:7.3 mg/dL, Mg++:2.4 mg/dL,
   PO4:3.9 mg/dL
   ECG sinus with PR 0.46 (buried in t wave)
   CXR: ETT 3 cm above carina, bilat interstitial infiltrates and eff,
   cardiomegaly
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 ANEMIA, CHRONIC
 THROMBOCYTOPENIA, CHRONIC
 HYPOTENSION (NOT SHOCK)
   31yo gentleman with h/o HIV not on HAART, ESRD on HD, and h/o coag neg
   Staph endocarditis s/p MVR/AVR [**1-25**] admitted with fevers and diarrhea,
   now w/ GPC POS BCx. Pt presents good clinical picture for bacterial
   endocarditis.
   Endocarditis: concern for valve abscess- needs repeat TEE today in cath
   lab with anesthesia and also EP will place a temporary pacing  wire.
   Continue ABX, check Vanco level today. serial blood cx. Once this new
   data is available need to have fjnal statement from [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] here if he
   is not a surgical candidate
 if so we will need to speak with the
   family and make them aware of other potential hospitals if he fails
   medical therapy
   Resp: on [**4-21**], eval for extunation after procedures and sedation wears
   off
   ESRD: HD Today, TH, Sat
   Eyelid abscess: ? blepharitis, warm conpress, emycin ointment, Optho
   consult if worsens. Discuss with ID
   Remaining issues as per Housestaff notes -
   ICU Care
   Nutrition: TFs after procedure
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: ppi
   VAP: chlorhex, HOB
   Code status: Full code
   Disposition :ICU
   Total time spent: 40

2188-09-17 08:24:00 Physician Attending Progress Note
Chief Complaint: endocarditis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   31 yr old with hiv and s. viridans endocarditis
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2188-9-16**] 03:24 PM
 EKG - At [**2188-9-17**] 03:00 AM
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Gentamicin - [**2188-9-16**] 12:15 PM
   Vancomycin - [**2188-9-16**] 01:15 PM
   Metronidazole - [**2188-9-16**] 02:03 PM
   Infusions:
   Fentanyl - 35 mcg/hour
   Other ICU medications:
   Dextrose 50% - [**2188-9-16**] 11:00 PM
   Heparin Sodium (Prophylaxis) - [**2188-9-17**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-9-17**] 08:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.8
   HR: 65 (62 - 83) bpm
   BP: 119/69(82) {96/53(63) - 123/75(85)} mmHg
   RR: 15 (0 - 21) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 69.7 kg (admission): 69.7 kg
   Height: 66 Inch
             Total In:
                                                                  1,453 mL
                                                                    189 mL
   PO:
             TF:
   IVF:
                                                                  1,193 mL
                                                                    189 mL
   Blood products:
   Total out:
                                                                  3,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,547 mL
                                                                    189 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 450 (450 - 527) mL
   PS : 12 cmH2O
   RR (Set): 0
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: ///29/
   Ve: 7.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.9 g/dL
   149 K/uL
   86 mg/dL
   5.5 mg/dL
   29 mEq/L
   3.9 mEq/L
   17 mg/dL
   103 mEq/L
   141 mEq/L
   26.6 %
   3.3 K/uL
        [image002.jpg]
                             [**2188-9-11**]  07:03 PM
                             [**2188-9-12**]  03:27 AM
                             [**2188-9-13**]  03:01 AM
                             [**2188-9-14**]  03:04 AM
                             [**2188-9-15**]  03:11 AM
                             [**2188-9-15**]  04:39 AM
                             [**2188-9-16**]  03:16 AM
                             [**2188-9-16**]  10:00 AM
                             [**2188-9-17**]  02:00 AM
   WBC
   4.1
   5.3
   3.2
   3.1
   3.5
   3.9
   3.3
   Hct
   30.3
   33.4
   28.3
   26.1
   26.2
   27.0
   26.6
   Plt
   100
   118
   129
   150
   144
   161
   149
   Cr
   9.4
   9.9
   5.1
   4.8
   6.9
   8.7
   5.5
   TropT
   0.15
   TCO2
   29
   Glucose
   85
   91
   90
   72
   64
   58
   110
   86
   Other labs: PT / PTT / INR:15.6/29.5/1.4, CK / CKMB /
   Troponin-T:27//0.15, ALT / AST:[**7-10**], Alk Phos / T Bili:375/0.5,
   Differential-Neuts:68.9 %, Lymph:22.2 %, Mono:4.6 %, Eos:4.0 %, Lactic
   Acid:0.7 mmol/L, Albumin:3.0 g/dL, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.5 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 ANEMIA, CHRONIC
 THROMBOCYTOPENIA, CHRONIC
 HYPOTENSION (NOT SHOCK)
   31yo gentleman with h/o HIV not on HAART, ESRD on HD, and h/o coag neg
   Staph endocarditis s/p MVR/AVR [**1-25**] admitted with fevers and diarrhea,
   now w/ GPC POS BCx. Pt presents good clinical picture for bacterial
   endocarditis.
   Endocarditis: concern for valve abscess- needs repeat TEE today in cath
   lab with anesthesia and also EP will place a temporary pacing  wire.
   Continue ABX, check Vanco level today. serial blood cx. Once this new
   data is available need to have fjnal statement from [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] here if he
   is not a surgical candidate
 if so we will need to speak with the
   family and make them aware of other potential hospitals if he fails
   medical therapy
   Resp: on [**4-21**], eval for extunation after procedures and sedation wears
   off
   ESRD: HD Today, TH, Sat
   Eyelid abscess: ? blepharitis, warm conpress, emycin ointment, Optho
   consult if worsens. Discuss with ID
   Remaining issues as per Housestaff notes -
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2188-9-16**] 10:15 AM
   22 Gauge - [**2188-9-16**] 02:03 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2188-09-18 12:12:00 Physician Attending Progress Note
Chief Complaint: endocarditis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   31 yr old with endocarditis
   24 Hour Events:
 EKG - At [**2188-9-17**] 10:00 AM
   Successfully extubated
   Anxious to know the plan and how he can get home
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Gentamicin - [**2188-9-16**] 12:15 PM
   Vancomycin - [**2188-9-16**] 01:15 PM
   Metronidazole - [**2188-9-16**] 02:03 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2188-9-17**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-9-18**] 12:11 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.2
C (97.2
   HR: 83 (79 - 108) bpm
   BP: 102/58(68) {98/54(64) - 128/91(98)} mmHg
   RR: 17 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 69.7 kg (admission): 69.7 kg
   Height: 66 Inch
                  Total In:
                                                                  1,179 mL
                                                                    500 mL
   PO:
                                                                    770 mL
                                                                    500 mL
   TF:
   IVF:
                                                                    319 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,179 mL
                                                                    500 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: lying in bed getting HD, sleepy but will arouse to
   voice
   Eyes / Conjunctiva: left pupil smaller than right both reactive ,
   palpable mass in edge of left eyelid
   Cardiovascular: S3, S4, (Murmur: Systolic), IV/VI
   Respiratory / Chest: good air movement, scattered rales at bases
   Skin:  warm
   Neurologic: in tact
   Labs / Radiology
   9.6 g/dL
   158 K/uL
   87 mg/dL
   7.3 mg/dL
   28 mEq/L
   4.4 mEq/L
   24 mg/dL
   101 mEq/L
   140 mEq/L
   29.4 %
   4.2 K/uL
        [image002.jpg]
                             [**2188-9-11**]  07:03 PM
                             [**2188-9-12**]  03:27 AM
                             [**2188-9-13**]  03:01 AM
                             [**2188-9-14**]  03:04 AM
                             [**2188-9-15**]  03:11 AM
                             [**2188-9-15**]  04:39 AM
                             [**2188-9-16**]  03:16 AM
                             [**2188-9-16**]  10:00 AM
                             [**2188-9-17**]  02:00 AM
                             [**2188-9-18**]  06:08 AM
   WBC
   4.1
   5.3
   3.2
   3.1
   3.5
   3.9
   3.3
   4.2
   Hct
   30.3
   33.4
   28.3
   26.1
   26.2
   27.0
   26.6
   29.4
   Plt
   100
   118
   129
   150
   144
   161
   149
   158
   Cr
   9.4
   9.9
   5.1
   4.8
   6.9
   8.7
   5.5
   7.3
   TropT
   0.15
   TCO2
   29
   Glucose
   85
   91
   90
   72
   64
   58
   110
   86
   87
   Other labs: PT / PTT / INR:15.6/29.5/1.4, CK / CKMB /
   Troponin-T:27//0.15, ALT / AST:[**7-10**], Alk Phos / T Bili:375/0.5,
   Differential-Neuts:68.9 %, Lymph:22.2 %, Mono:4.6 %, Eos:4.0 %, Lactic
   Acid:0.7 mmol/L, Albumin:3.0 g/dL, Ca++:7.4 mg/dL, Mg++:2.5 mg/dL,
   PO4:3.9 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 ANEMIA, CHRONIC
 THROMBOCYTOPENIA, CHRONIC
 HYPOTENSION (NOT SHOCK)
   31yo gentleman with h/o HIV not on HAART, ESRD on HD, and h/o coag neg
   Staph endocarditis s/p MVR/AVR [**1-25**] admitted with fevers and diarrhea,
   now intermediate sesni Strep viridans and prosthetic valve ring abscess
   and tricuspid valve veg.
   1.       Endocarditis: Pt with endocarditis and AVR abscess. Surgery
   would be definitive RX but he would need AVR and MVR. At issue is
   whether is his complex and debilitated state we can first try to
   exhaust medical management with ABX and very close follow up. He does
   have a temp wire in but we have not needed to use it. Dr [**First Name (STitle) **] from C
   [**Doctor First Name 458**] will come by today to speak with Mr [**Known lastname 5619**] and his family.
   Meantime ABX, serial ECGs, serial blood cx. Final issue is with back
   pain we would need to do a spien Ct to look for epidural abscess (no
   MRI due to temp wire) renal aware and OK with contrast
   2.       ESRD: HD Tu, TH, Sat
 on HD today
   3.        Eyelid abscess: ? blepharitis, warm compress, emycin
   ointment- no better
 Optho recc. conservative me
   Remaining issues as per Housestaff notes -
   ICU Care
   Nutrition: renal diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2188-9-16**] 10:15 AM
   22 Gauge - [**2188-9-16**] 02:03 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   Communication:  Comments: with pt and mother
   [**Name (NI) 66**] status: Full code
   Disposition :possible tx to floor where temp wore OK- [**Hospital1 2259**] team likely
   Total time spent:

2188-09-18 15:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Patient extubated yesterday
   Seen by opthalmology for L Blepheritis
 CALLED OUT
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Gentamicin - [**2188-9-16**] 12:15 PM
   Vancomycin - [**2188-9-16**] 01:15 PM
   Metronidazole - [**2188-9-16**] 02:03 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2188-9-17**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema, L eye not
   painful, without visual changes
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea
   Neurologic: No(t) Numbness / tingling, No(t) Headache
   Psychiatric / Sleep: No(t) Agitated
   Flowsheet Data as of  [**2188-9-18**] 03:48 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (97
   HR: 84 (79 - 107) bpm
   BP: 107/73(81) {95/54(64) - 117/91(98)} mmHg
   RR: 20 (12 - 27) insp/min
   SpO2: 93%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 69.7 kg (admission): 69.7 kg
   Height: 66 Inch
                  Total In:
                                                                  1,179 mL
                                                                    740 mL
   PO:
                                                                    770 mL
                                                                    740 mL
   TF:
   IVF:
                                                                    319 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,179 mL
                                                                    740 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: No(t) PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic,
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: Dullness : Bases), (Breath Sounds:
   Clear : , No(t) Wheezes : , Diminished: at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   158 K/uL
   9.6 g/dL
   87 mg/dL
   7.3 mg/dL
   28 mEq/L
   4.4 mEq/L
   24 mg/dL
   101 mEq/L
   140 mEq/L
   29.4 %
   4.2 K/uL
        [image002.jpg]
                             [**2188-9-11**]  07:03 PM
                             [**2188-9-12**]  03:27 AM
                             [**2188-9-13**]  03:01 AM
                             [**2188-9-14**]  03:04 AM
                             [**2188-9-15**]  03:11 AM
                             [**2188-9-15**]  04:39 AM
                             [**2188-9-16**]  03:16 AM
                             [**2188-9-16**]  10:00 AM
                             [**2188-9-17**]  02:00 AM
                             [**2188-9-18**]  06:08 AM
   WBC
   4.1
   5.3
   3.2
   3.1
   3.5
   3.9
   3.3
   4.2
   Hct
   30.3
   33.4
   28.3
   26.1
   26.2
   27.0
   26.6
   29.4
   Plt
   100
   118
   129
   150
   144
   161
   149
   158
   Cr
   9.4
   9.9
   5.1
   4.8
   6.9
   8.7
   5.5
   7.3
   TropT
   0.15
   TCO2
   29
   Glucose
   85
   91
   90
   72
   64
   58
   110
   86
   87
   Other labs: PT / PTT / INR:15.6/29.5/1.4, CK / CKMB /
   Troponin-T:27//0.15, ALT / AST:[**7-10**], Alk Phos / T Bili:375/0.5,
   Differential-Neuts:68.9 %, Lymph:22.2 %, Mono:4.6 %, Eos:4.0 %, Lactic
   Acid:0.7 mmol/L, Albumin:3.0 g/dL, Ca++:7.4 mg/dL, Mg++:2.5 mg/dL,
   PO4:3.9 mg/dL
   Assessment and Plan
   31yoM with HIV not on HAART, ESRD on HD, and h/o Coag Neg Staph
   Endocarditis s/p MVR/AVR [**1-25**] now with Strep Viridans Endocarditis,
   Bacteremia, Back Pain
   # Strep Viridans Endocarditis: Currently debating Medical vs Surgical
   Management. Awaiting further sensitivies for Strep Viridans.
   - Medical: Currently on Vanc/Gent. Will consider change to Penicillin
   at later date. Duration of treatment remains unclear however likely [**3-23**]
   weeks.
   - [**Hospital 5754**] medical management with serial EKGs and assessing for PR
   prolongation
   - Surgical: CT [**Doctor First Name **] to speak with pt today
   - EP Following
   - Transfer to cardiac floor today for assessment and for further
   management
   # Back Pain: 2 weeks in duration according to pt. Worrisome for
   epidural abscess as potential source for seeding of valves.
   - Assess with CT with contrast (Renal has cleared pt to undergo test
   with contrast with subsequent dialysis)
   # Blepheritis/Stye: Seen by Optho yesterday and assessed
   - Continue Erythromycin
   - Warm Compresses
   # HIV not on HAART: ID following
   - Will consider restarting HAART when pt clinically stable
   # ESRD: Tu, Thurs, Sat Dialysis
   - Dialysis this AM
   # Chronic Pain: Stable, increased back pain
   - Cont Methadone 40mg TID
   # Asthma: Stable, Cont Nebs PRN
   # HBV/HCV: LFTs stable
   # Anemia: Chronic, Stable
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2188-9-16**] 10:15 AM
   22 Gauge - [**2188-9-16**] 02:03 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor